US06777418B2
A solution of 1.0 g (2.2 mmol) of methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-bromomethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid and 0.6 g (8.8 mmol) of pyrazole in 15 ml of N-methylpyrrolidine was heated at 100°. After 2 h, the reaction mixture was cooled to room temperature, poured into brine, extracted with ethyl acetate, washed with brine and dried over sodium sulfate. The organic solution was adsorbed onto silica gel and purified by flash chromatography (gradient elution: hexane-18% ethyl acetate/hexane) to afford 0.71 g (73%) of Methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid (MH+=443).

reactant | methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-bromomethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid | 2.2 mmol, 1.0 g | CC1=C(C(=O)O)C=CC(=C1)\C=C\C1=CC=2C(CC(C(C2C=C1CBr)(C)C)=O)(C)C | C25H27BrO3
reactant | pyrazole | 8.8 mmol, 0.6 g | N1N=CC=C1 | C3H4N2
solvent | N-methylpyrrolidine | 15 ml | CN1CCCC1 | C5H11N
solvent | brine | [Cl-].[Na+].O
product | Methyl-4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-6-oxo -5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]-benzoic acid | 0.71 g, 73% | CC1=C(C(=O)O)C=CC(=C1)\C=C\C1=CC=2C(CC(C(C2C=C1CN1N=CC=C1)(C)C)=O)(C)C | C28H30N2O3
